US06846832B2
e) 5-(3-Fluoro-benzyloxy)-2,3-dihydro-isoindol-1-one
A mixture of 5-hydroxy-2,3-dihydro-isoindol-1-one (2.4 g, 16 mmol), potassium carbonate (2.4 g, 18 mmol) and 3-fluorobenzyl bromide (3.3 g, 18 mmol) in acetone (40 mL) was heated under reflux for 22 h. After cooling to RT the mixture was filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2:2N NH3-MeOH 90:10) to afford the title product (2.8 g, 67%) as a white solid. MS m/e=257.2 (M+).

reactant | 5-hydroxy-2,3-dihydro-isoindol-1-one | 16 mmol, 2.4 g | OC=1C=C2CNC(C2=CC1)=O | C8H7NO2
reactant | potassium carbonate | 18 mmol, 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-fluorobenzyl bromide | 18 mmol, 3.3 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
solvent | acetone | 40 mL | CC(=O)C | C3H6O
product | 5-(3-Fluoro-benzyloxy)-2,3-dihydro-isoindol-1-one | 2.8 g, 67% | FC=1C=C(COC=2C=C3CNC(C3=CC2)=O)C=CC1 | C15H12FNO2
